US20010056109A1
1-Benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole was prepared as 1-benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole above except that 2-phen-ylindan-1-one was used as a starting material. In this case after evaporation of the filtrate the residue was dissolved in diluted hydrochloric acid. The product was extracted into dichloromethane. The combined organic phases were washed with water, dried over sodium sulfate and evaporated under reduced pressure. The crude product as its hydrochloride salt was used in the next step without purification.

reactant | 1-benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C27H24N2O
reactant | 2-phen-ylindan-1-one | C1(=CC=CC=C1)C1C(C2=CC=CC=C2C1)=O | C15H12O
product | 1-Benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=CC=C12)C1=CC=CC=C1 | C26H22N2
